US07288537B2
A solution of 3-[3-(4-fluoro-phenoxy)-azetidin-1-yl]-propylamine (0.04 g, 0.178 mmol) and 3,4-difluorophenylisocyanate (0.020 ml, 0.178 mmol) in dichloromethane (1 ml) is stirred at room temperature for 5 hours. The solvent is evaporated and the crude product purified by flash silica chromatography (elution gradient a 3:97 to 5:95 methanol/dichloromethane) to afford 1-(3,4-difluoro-phenyl)-3-{3-[3-(4-fluoro-phenoxy)-azetidin-1-yl]-propyl}-urea. [MH]+ 379.9.

reactant | 3-[3-(4-fluoro-phenoxy)-azetidin-1-yl]-propylamine | 0.178 mmol, 0.04 g | FC1=CC=C(OC2CN(C2)CCCN)C=C1 | C12H17FN2O
reactant | 3,4-difluorophenylisocyanate | 0.178 mmol, 0.020 ml | FC=1C=C(C=CC1F)N=C=O | C7H3F2NO
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 1-(3,4-difluoro-phenyl)-3-{3-[3-(4-fluoro-phenoxy)-azetidin-1-yl]-propyl}-urea | FC=1C=C(C=CC1F)NC(=O)NCCCN1CC(C1)OC1=CC=C(C=C1)F | C19H20F3N3O2
